US05648486
trans-2-(3-Methoxy-4-p-chlorophenylthioethoxy-5-cyanophenyl)-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran (compound 110, FIG. 1).
trans-2-(3-Methoxy-4-p-chlorophenylthioethoxy-5-iodophenyl)-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran (2.35 g, 3.58 mmole) and CuCN (0.358 g, 4.30 mmole) in DMF (20 mL) were heated at 140° C. for 16 hours. The reaction mixture was cooled and quenched with water and extracted with ethyl acetate. The organic layer was washed with water and saturated NaCl solution, dried over MgSO4, filtered and evaporated in vacuo to oil which was purified by column chromatography (silica, 2:1 hexane/ethyl acetate) (1.79 g, 90.0%). 1H NMR (CDCl3): 1.99 (m, 2H); 2.47 (m, 2H); 3.32 (t, 2H); 3.85 (s, 6H), 3.89 (s, 6H); 4.27 (t, 2H); 5.17 (m, 2H); 6.61 (s, 2H); 7.16 (s, 2H); 7.28 (d, 2H); 7.32 (d, 2H).

reactant | trans-2-(3-Methoxy-4-p-chlorophenylthioethoxy-5-iodophenyl)-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran | 3.58 mmole, 2.35 g | COC=1C=C(C=C(C1OCCSC1=CC=C(C=C1)Cl)I)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C28H30ClIO6S
reactant | CuCN | 4.30 mmole, 0.358 g | C(#N)[Cu]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | trans-2-(3-Methoxy-4-p-chlorophenylthioethoxy-5-cyanophenyl)-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | COC=1C=C(C=C(C1OCCSC1=CC=C(C=C1)Cl)C#N)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C29H30ClNO6S
